Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Pelvic pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ yo G3P___ who presents from ___ with abdominal 
pain and fever.  Her pain started 2 weeks and gradually 
worsened.  Pain is worst on left side.  It radiates to her back. 
 She denies associated nausea or vomiting, but endorses 
anorexia.  Yesterday and today she only desired juice.  She 
denies SOB, CP, leg pain, HA, sweats or chills. Endorses 12# 
weight gain since delivery last ___.  She is not 
breastfeeding.  She had a fever to 100.9 this morning and called 
Dr. ___ to be evaluated.

Upon Dr. ___, she had a fever to 103, 
+mucopurulent discharge, and +CMT.  She was sent to the ED for 
further evaluation with ultrasound and admission.
 
Past Medical History:
PGynHx: LMP ___.  ___ removed in the office today,
placed ___.  Sexually active with one partner (unclear
if he has other partners).  Denies history of STIs, PID.  Remote
history of abnormal Pap s/p colposcopy.

POBHx:
___ SVD 7#
___ LTCS for NRFHT remote from delivery, no comps
SAB x1 with D&C

PMH: Beta thal trait
PSH: LTCSx1, breast reduction, D&C

 
Social History:
Denies tobacco, drugs.  Occassional social alcohol.  Works in 
nursing in long-term care facility.  Lives with her two 
children, her boyfriend, and her sister.

 
Physical Exam:
Exam on admission in ED by Dr. ___: 
VS: 105.2 -> 100.7 after Tylenol ___ 16 100% 
Gen: Lying in bed, conversant
Card: Borderline tachycardiac.  Regular without murmurs
Resp: Clear bilaterally with good air movement
Abd: Soft, non-distended.  Tender in lower quadrants b/l L>R.  
No
rebound or guarding. +normal BS.  No inguinal ___.
Speculum: +Scant mucopurulent discharge
Bimanual: +CMT, +left adnexal tenderness
Ext: NT, NE

 
Pertinent Results:
___ 07:34AM BLOOD WBC-10.8 RBC-3.62* Hgb-9.7* Hct-30.8* 
MCV-85 MCH-26.9* MCHC-31.6 RDW-14.3 Plt ___
___ 06:45AM BLOOD WBC-14.0* RBC-3.89* Hgb-10.3* Hct-33.9* 
MCV-87 MCH-26.6* MCHC-30.5* RDW-14.3 Plt ___
___ 07:55AM BLOOD WBC-16.6* RBC-3.76* Hgb-10.2* Hct-32.2* 
MCV-86 MCH-27.1 MCHC-31.6 RDW-14.3 Plt ___
___ 06:15PM BLOOD WBC-16.3*# RBC-3.77*# Hgb-10.1* Hct-32.1* 
MCV-85 MCH-26.8* MCHC-31.5 RDW-14.5 Plt ___
___ 07:34AM BLOOD Neuts-77.9* Lymphs-16.1* Monos-4.3 
Eos-1.4 Baso-0.3
___ 06:45AM BLOOD Neuts-77.2* Lymphs-16.1* Monos-4.3 
Eos-1.5 Baso-0.9
___ 07:55AM BLOOD Neuts-84.0* Lymphs-11.5* Monos-3.4 
Eos-0.9 Baso-0.2
___ 06:15PM BLOOD Neuts-85.0* Lymphs-11.9* Monos-2.2 
Eos-0.7 Baso-0.2
___ 06:15PM BLOOD Glucose-96 UreaN-6 Creat-0.6 Na-137 K-3.6 
Cl-105 HCO3-22 AnGap-14
___ 07:55AM BLOOD HBsAg-NEGATIVE HBsAb-POSITIVE
___ 07:55AM BLOOD HIV Ab-NEGATIVE
___ 07:55AM BLOOD HCV Ab-NEGATIVE
___ 06:25PM BLOOD Lactate-0.8
___ 07:45PM URINE Color-Straw Appear-Clear Sp ___
___ 07:45PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-5.5 Leuks-NEG
___ 07:45PM URINE UCG-NEGATIVE

Initial pelvic u/s ___: Fibroid uterus. Probable fibroid in the 
lower uterine segment posteriorly though infection not excluded 
-- Recommend clinical correlation for PID and f/u US us symptoms 
persist. ED QA nurses were emailed to ensure communication. 
Small amount of pelvic free fluid. 

F/U pelvic u/s ___: Slight increased size of complex myometrial 
fluid collection in the left lateral aspect of the uterus. This 
likely represents an atypical infection, but since the patient 
is clinically better, drainage at this time is not felt to be 
warranted. 
 
Brief Hospital Course:
Ms. ___ was admitted to the GYN service for inpatient 
management of pelvic inflammatory disease. She was febrile to 
105 in the ED.  Her WBC was 16 at admission and without bands. 
She was started on IV gentamicin and clindamycin upon admission. 
Ultrasound was concerning for focal area of infection within the 
myometrium.  However, this was not amenable to drainage and the 
patient was improving clinically on antibiotics. Thus, the 
decision was made to continue antibiotics only.  Her blood 
cultures and STI panel were negative. 

She was treated with IV gentamicin and clindamycin until she 
remained afebrile for 48 hours.  She was then started on oral 
clindamycin for a two week course. While in the hospital her 
pain improved.  She was discharged home on hospital day 4 in 
good condition with follow-up.  
 
Medications on Admission:
None.
 
Discharge Medications:
1. clindamycin HCl 150 mg Capsule Sig: Three (3) Capsule PO 
every six (6) hours for 12 days: 450mg every 6 hours.
Disp:*144 Capsule(s)* Refills:*0*
2. Loestrin ___ (21) ___ mg-mcg Tablet Sig: One (1) Tablet PO 
once a day.
Disp:*90 Tablet(s)* Refills:*3*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Pelvic inflammatory disease

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
General instructions:  
* Take your medications as prescribed.    
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs  
* You may eat a regular diet  

To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.  


 
Followup Instructions:
___